* Z:\mnt\design.r\spice\examples\3502.asc
XU1 IN OUT N005 N003 0 N004 N001 N002 LT3502
V1 IN 0 5
R1 IN N003 15K
C1 N003 0 .1µ
L1 N002 OUT 15µ
R2 OUT N005 31.6K
R3 N005 0 10K
C2 OUT 0 22µ
R4 OUT 0 6.6
D1 N004 N002 MBR0520L
C3 N001 N002 .1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 750u startup
.lib LT3502.sub
.backanno
.end
